US07829560B2
3-Fluoro-N-[4-({2-[(2-methoxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide (Compound B414).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and (2-methoxyethyl)methylamine according to conditions described in general procedure C. Mp: 81-82° C.; 1H NMR (400 MHz, CDCl3) δ 1.62-1.70 (m, 6 H), 3.06-3.40 (m, 14 H), 6.05 (s, 1 H), 6.76 (d, J=12.0 Hz, 1 H), 6.99 (d, J=7.8 Hz, 1 H), 7.26-7.30 (m, 2 H), 7.47-7.56 (m, 2 H), 7.88-7.96 (m, 3 H), 8.17 (s, 2 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | (2-methoxyethyl)methylamine | COCCNC | C4H11NO
product | 3-Fluoro-N-[4-({2-[(2-methoxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N(C)CCOC)C=C(C1)N1CCCCC1 | C30H32FN5O3
